US06699904B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.86 g, 20.1 mmol) and heptanoic acid (2.38 mL, 16.8 mmol) were added sequentially to a solution of 4-nitrophenethylamine (3.40 g, 16.8 mmol), triethylamine (2.81 mL, 20.1 mmol) and methylene chloride (25 mL). After stirring 18 h at ambient temperature, the reaction mixture was diluted with ethyl acetate; washed sequentially with water, 1N aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride; dried over anhydrous sodium sulfate; filtered and concentrated under reduced pressure to provide 3.80 g (81%) of heptanoic acid [2-(4-nitro-phenyl)-ethyl]-amide as an off-white solid.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 20.1 mmol, 3.86 g | Cl.CN(CCCN=C=NCC)C
reactant | heptanoic acid | 16.8 mmol, 2.38 mL | C(CCCCCC)(=O)O | C7H14O2
reactant | 4-nitrophenethylamine | 16.8 mmol, 3.40 g | [N+](=O)([O-])C1=CC=C(CCN)C=C1 | C8H10N2O2
reactant | triethylamine | 20.1 mmol, 2.81 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | heptanoic acid [2-(4-nitro-phenyl)-ethyl]-amide | 3.80 g, 81% | [N+](=O)([O-])C1=CC=C(C=C1)CCNC(CCCCCC)=O | C15H22N2O3
